US05145961
0.5 mol of fluorine in the form of a 30% by volume mixture with helium was introduced into a suspension of 29.0 g (0.216 mol) of 2,4,6-trifluoropyrimidine, 21 g of sodium fluoride (0.5 mol) and 250 ml of trichlorofluoromethane at a temperature of -78° C. The rate of introduction was 0.15 mol of fluorine per hour. After the introduction was complete, the reaction mixture was filtered and 21.0 g of tetrafluoropyrimidine (=64% of theory) were obtained from the filtrate by distillation.

reactant | fluorine | 0.5 mol | FF | F2
reactant | 2,4,6-trifluoropyrimidine | 0.216 mol, 29.0 g | FC1=NC(=CC(=N1)F)F | C4HF3N2
reactant | sodium fluoride | 0.5 mol, 21 g | [F-].[Na+]
reactant | fluorine | 0.15 mol | FF | F2
solvent | trichlorofluoromethane | 250 ml | ClC(F)(Cl)Cl | CCl3F
product | tetrafluoropyrimidine | 21.0 g, 64% | FC1=C(C(=NC(=N1)F)F)F | C4F4N2
